data/oMe_Silver.jsonl
{"reaction_id": "NR-313_1-C=O_2-S(=O)(=O)C_3-C(=O)OC_4-c2ccccc2_5-CC","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(C=O)c(S(=O)(=O)C)c(C(=O)OC)c(c2ccccc2)c(CC)c1I"],"products_smiles": ["c1(C=O)c(S(=O)(=O)C)c(C(=O)OC)c(c2ccccc2)c(CC)c1c2c(C=O)c(S(=O)(=O)C)c(C(=O)OC)c(c2ccccc2)c2(CC)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C=O)c(S(=O)(=O)C)c(C(=O)OC)c(c2ccccc2)c(CC)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(C=O)c(S(=O)(=O)C)c(C(=O)OC)c(c2ccccc2)c(CC)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C=O)c(S(=O)(=O)C)c(C(=O)OC)c(c2ccccc2)c(CC)c1[Cu](I)c2c(C=O)c(S(=O)(=O)C)c(C(=O)OC)c(c2ccccc2)c2(CC)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C=O)c(S(=O)(=O)C)c(C(=O)OC)c(c2ccccc2)c(CC)c1c2c(C=O)c(S(=O)(=O)C)c(C(=O)OC)c(c2ccccc2)c2(CC)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
{"reaction_id": "NR-074_1-C(F)(F)F_2-C_3-C_4-C","name": "Fries Rearrangement","level": "medium","reactants_smiles": ["c1(OC(=O)C)c(C(F)(F)F)c(C)cc(C)c1"],"products_smiles": ["C(=O)(C)c1c(O)c(C(F)(F)F)c(C)cc1C"],"conditions": "AlCl3","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "c1(OC(=[O+][Al-](Cl)(Cl)Cl)C)c(C(F)(F)F)c(C)cc(C)c1","rationale": "AlCl3, a strong Lewis acid, coordinates to the ester carbonyl oxygen, withdrawing electron density and enhancing the carbonyl carbon's electrophilicity for subsequent bond cleavage."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[O+]#CC.c1(O[Al-](Cl)(Cl)Cl)c(C(F)(F)F)c(C)cc(C)c1","rationale": "Heterolytic cleavage occurs as the polarized C–O bond breaks, favored by the stability of the acylium ion through resonance and the strong Al–O bond formation."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(C)C1=C(O[Al-](Cl)(Cl)Cl)C(C(F)(F)F)=C(C)C=C1(C)","rationale": "The acylium ion acts as a potent electrophile, undergoing electrophilic aromatic substitution at an activated ring position, driven by aromatic π-electron donation to stabilize the σ-complex."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C)c1c(O[Al](Cl)Cl)c(C(F)(F)F)c(C)cc1C","rationale": "Proton transfer from the σ-complex oxygen to the Al-bound oxygen restores aromaticity, facilitated by the Lewis acidic Al center stabilizing the alkoxide."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C)c1c(O)c(C(F)(F)F)c(C)cc1C","rationale": "Final proton transfer liberates the free phenolic OH, driven by the thermodynamic stability of the neutral product and release of AlCl3 for catalyst turnover."}],"description": "In the Fries rearrangement, AlCl3 coordinates to the ester carbonyl, increasing electrophilicity and promoting cleavage to generate an acylium ion. This electrophile undergoes intramolecular electrophilic aromatic substitution, followed by sequential proton transfers to restore aromaticity and yield the hydroxyaryl ketone."}
